US05122523
40 mg of L-Nα -[(2S)-3-isopropylthio-2-(1-naphthylmethyl)propionyl]-Nim -triphenylmethylhistidine methyl ester was dissolved in 0.6 ml of dioxane. 0.3 ml of a 37 mg/ml sodium bromide trihydrate aqueous solution was added thereto at room temperature. The reaction solution was stirred at room temperature for 15 minutes, and then diluted with 20 ml of ethyl acetate. The reaction solution was washed with 8 ml of water and then with 8 ml of a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The reaction solution was concentrated under reduced pressure to obtain yellow solid. This product was saponified with a solution of 0.4N potassium hydroxide in methanol/water (10/1) to obtain 40 mg of L-Nα -[(2S)-3-isopropylsulfinyl-2-(1-naphthylmethyl)propionyl]-Nim -triphenylmethylhistidine (Rf: 0.48, chloroform/methanol/33% acetic acid=10/1/0.2). This compound was condensed in the same manner as in Example 11 with (2S,3R,4S)-4-amino-5-cyclohexyl-1-morpholino-2,3-pentanediol by a usual DPPA method, further subjected to removal of a triphenylmethyl group by dichloromethane/TFA (3/4). The product was purified by silica gel column chromatography (chloroform/methanol/conc. aqueous ammonia=30/3/0.02) to obtain 20 mg of (2S,3R,4S)-4-{L-Nα -[(2S)-3-isopropylsulfinyl-2-(1-naphthylmethyl)propionyl]histidyl}amino-5-cyclohexyl-1-morpholino-2,3-pentanediol as white solid.

reactant | triphenylmethylhistidine methyl ester | COC([C@@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CNC=N1)=O | C26H25N3O2
reactant | sodium bromide trihydrate | O.O.O.[Br-].[Na+]
reactant | potassium hydroxide | 0.4N | [OH-].[K+]
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | triphenylmethylhistidine | 33% | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](CC1=CNC=N1)C(=O)O | C25H23N3O2
